US07018988B2
(2S,4EZ)-4-[(allyloxy)imino]-N-[2-(diethylamino)ethyl]-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-4-[(allyloxy)-imino]-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid, and N1,N1-diethyl-1,2-ethanediamine the title compound was obtained in 78% purity by LC/MS. MS(ESI+): m/z=283.0.

reactant | (2S,4EZ)-4-[(allyloxy)-imino]-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid | C(C=C)ON=C1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)O | C13H20N2O5
reactant | N1,N1-diethyl-1,2-ethanediamine | C(C)N(CCN)CC | C6H16N2
product | (2S,4EZ)-4-[(allyloxy)imino]-N-[2-(diethylamino)ethyl]-2-pyrrolidinecarboxamide | C(C=C)ON=C1C[C@H](NC1)C(=O)NCCN(CC)CC | C14H26N4O2
